US07772253B2
6-Cyano-5-methyl-N-piperidin-4-yl-nicotinamide
To the above prepared 4-[(6-cyano-5-methyl-pyridine-3-carbonyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester (0.363 g, 1.05 mmol), dissolved in 3 ml of dioxane, was added 5.27 ml of 4N HCl (dioxane) and the resulting suspension stirred at ambient temperature for another h. Careful evaporation left 0.375 g of the title compound as hydrochloride as off-white crystals.

reactant | 4-[(6-cyano-5-methyl-pyridine-3-carbonyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | 1.05 mmol, 0.363 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(=O)C=1C=NC(=C(C1)C)C#N | C18H24N4O3
reactant | HCl | 4N, 5.27 ml | Cl | ClH
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 6-Cyano-5-methyl-N-piperidin-4-yl-nicotinamide | C(#N)C1=NC=C(C(=O)NC2CCNCC2)C=C1C | C13H16N4O
